US05877191
Step B: (3S,5R,6R,7S)-7-(Benzyloxycarbonylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane
A mixture of (3S,5R,6R,7S)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid (40 mg, 0.079 mmol), diphenylphosphoryl azide (24 mg, 0.08 mmol), and diisopropylethylamine (0.017 mL, 0.095 mmol) in toluene was stirred at RT for 0.5 h, and then heated at 100° C. for 50 min. After addition of benzyl alcohol (0.5 mL), the mixture was heated at 100° C. overnight. Upon cooling to RT, the mixture was taken up in 25 mL of ethyl acetate and washed successively with 15 mL of saturated aqueous sodium bicarbonate and 15 mL of brine. Drying over sodium sulfate and evaporation afforded the crude product, which was purified by column chromatography, eluting with 3-5% ethyl acetate in dichloromethane, to give the title compound (30 mg, 62%) as a light brown syrup. Mass spectrum (NH3/CI): m/z=610.1 (M+1).

reactant | (3S,5R,6R,7S)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid | 0.079 mmol, 40 mg | FC1=CC=C(C=C1)[C@@H]1[C@]2(C[C@H](CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CC[C@@H]1C(=O)O | C26H24F4N2O4
reactant | diphenylphosphoryl azide | 0.08 mmol, 24 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diisopropylethylamine | 0.095 mmol, 0.017 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl alcohol | 0.5 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (3S,5R,6R,7S)-7-(Benzyloxycarbonylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane | 30 mg, 62% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C33H31F4N3O4
